US07569571B2
B. N-Cyclopropyl-4-methyl-3-[6-(4-[1,3,4]oxadiazol-2-yl-phenyl)-purin-9-yl]-benzamide
To a solution of N-Cyclopropyl-3-[6-(4-hydrazinocarbonyl-phenyl)-purin-9-yl]-4-methyl-benzamide (8.0 mg, 0.019 mmol) in 0.5 mL of trimethyl orthoformate was added three drop of acetic acid. The reaction mixture was stirred at 120° C. in microwave for 10 minutes. Then 0.5 mL of methylene chloride and 3 mL of hexanes were added. The product was collected by filtration to give a colorless solid (6.0 mg, 73%). HPLC tR=2.12 min; MS m/z 438 [M+H]+.

reactant | N-Cyclopropyl-3-[6-(4-hydrazinocarbonyl-phenyl)-purin-9-yl]-4-methyl-benzamide | 0.019 mmol, 8.0 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C2=NC=NC(=C2N=C1)C1=CC=C(C=C1)C(=O)NN)=O | C23H21N7O2
reactant | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | trimethyl orthoformate | 0.5 mL | C(OC)(OC)OC | C4H10O3
catalyst | acetic acid | three drop | C(C)(=O)O | C2H4O2
product | N-Cyclopropyl-4-methyl-3-[6-(4-[1,3,4]oxadiazol-2-yl-phenyl)-purin-9-yl]-benzamide | 6.0 mg, 73% | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C2=NC=NC(=C2N=C1)C1=CC=C(C=C1)C=1OC=NN1)=O | C24H19N7O2
